US09062048B2
Step B: 2,2,2-trifluoro-1-(1,4-dioxaspiro[4.5]decan-8-yl)ethanol
To a solution of trimethyl(2,2,2-trifluoro-1-(1,4-dioxaspiro[4.5]decan-8-yl)ethoxy)silane (792 mg, 2.54 mmol, prepared in the previous step) in THF (10 mL) was added a TBAF (2.6 mL, 2.6 mmol, 1 M in THF) dropwise. After the complete addition, the reaction mixture was at room temperature 2 hours and then concentrated in vacuo. The residue purified by flash chromatography (silica gel, 0-100% ethyl acetate/heptane) to afford the product.

reactant | trimethyl(2,2,2-trifluoro-1-(1,4-dioxaspiro[4.5]decan-8-yl)ethoxy)silane | C[Si](OC(C(F)(F)F)C1CCC2(OCCO2)CC1)(C)C | C13H23F3O3Si
reactant | TBAF | 2.6 mmol, 1 M, 2.6 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2,2,2-trifluoro-1-(1,4-dioxaspiro[4.5]decan-8-yl)ethanol | FC(C(O)C1CCC2(OCCO2)CC1)(F)F | C10H15F3O3
